US03954890
Next, the 46 parts by weight of the morpholine enamine of cyclohexanone was admixed with 19 parts by weight of methyl vinyl ketone in 53 parts by weight of benzene solvent and heated at reflux (80°C) for 3 hours. After the 3 hour period, the reaction mixture was cooled and treated with the solution comprising 40 parts by weight of methanol, 25 parts by weight of water and 5 parts by weight of sodium hydroxide to yield a resulting mixture which was then heated at reflux (70°C) for 2 hours and thereafter diluted with approximately 100 parts by weight of water and separated in the 2-phases. The aqueous phase was extracted with ether to yield a phase which was combined with the organic phase and thereafter distilled to obtain a product having a boiling point of from 93°-117°F at 3 millimeters Hg. The product yield comprised 73.5% (based on octalones). A gas liquid chromatographic analysis of this product showed it to include 81.6% octalone, an 8.6 mole % decalone, and 10% other cyclic materials. The resulting mixture was then agitated with 10% of its weight of copper chromite and maintained at a temperature of 250°-350°c for 4 hours to obtain a 75% yield of pure beta-naphthol.

reactant | cyclohexanone | C1(CCCCC1)=O | C6H10O
reactant | methyl vinyl ketone | C(=C)C(=O)C | C4H6O
reactant | methanol | CO | CH4O
reactant | sodium hydroxide | [OH-].[Na+]
solvent | benzene | C1=CC=CC=C1 | C6H6
solvent | water | O | H2O
catalyst | octalone | CCCCCCCC[N+](C)(C)C.[Br-]
catalyst | copper chromite | [Cr](=O)([O-])[O-].[Cu+2]
product | beta-naphthol | 75% yield | C1=C(C=CC2=CC=CC=C12)O | C10H8O
